US04971969
1-[4,5-bis(trifluoromethyl)-2-pyridinyl]piperazine
Working as described in Example 1, but starting with 10 g (0.04 mol) of 2-chloro-4,5-bis(trifluoromethyl)pyridine and 10.3 g (0.12 mol) of piperazine, the base having a boiling point B.p. 0.04 of 100-102° C. was obtained, and then, after conversion to the hydrochloride, 7.8 g of the title compound .

reactant | 2-chloro-4,5-bis(trifluoromethyl)pyridine | 0.04 mol, 10 g | ClC1=NC=C(C(=C1)C(F)(F)F)C(F)(F)F | C7H2ClF6N
reactant | piperazine | 0.12 mol, 10.3 g | N1CCNCC1 | C4H10N2
reactant | hydrochloride | Cl | ClH
product | 1-[4,5-bis(trifluoromethyl)-2-pyridinyl]piperazine | 7.8 g | FC(C1=CC(=NC=C1C(F)(F)F)N1CCNCC1)(F)F | C11H11F6N3
